US05591694
a) 2-(Ethylthio)benzenesulfonamide
62 g (1.0 mol) of ethanethiol were added to a mixture of 65.9 g (1.0 mol) of 85% strength potassium hydroxide powder and 500 ml of dimethylformamide at 25° C. while stirring, and stirring was continued for 15 minutes. Thereafter, a solution of 95.8 g (0.5 mol) of 2-chlorobenzenesulfonamide was added at 90° C. while stirring in the course of 30 minutes, and stirring was continued for 8 hours at 110° C. The mixture was cooled and was evaporated down under reduced pressure, after which the residue was partitioned between methylene chloride and water, and the organic phase was washed with dilute sodium chloride solution. Evaporating down under reduced pressure gave 88.4 g (81.5% of theory) of the title compound as a semicrystalline mass.

reactant | ethanethiol | 1.0 mol, 62 g | C(C)S | C2H6S
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-chlorobenzenesulfonamide | 0.5 mol, 95.8 g | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2-(Ethylthio)benzenesulfonamide | C(C)SC1=C(C=CC=C1)S(=O)(=O)N | C8H11NO2S2
